US05917090
Trifluoro-methanesulphonic acid 5-phenylpentyl ester
5-Phenyl-pentan-1-ol (2 g, 12.17 mmol) in dichloromethane (30 ml) was cooled to -78° C. and treated sequentially with trifluoro-methanesulphonic anhydride (2.25 ml, 13.39 mmol) and pyridine (1.08 ml, 13.39 mmol). The solution was then allowed to warm to 0°C. and stirred at 0° C. for 1 hour, when it was poured into water (30 ml) and the phases separated. The organic phase was dried over anhydrous magnesium sulphate, filtered through a short silica pad and concentrated in vacuo to provide the crude product as a colourless oil which was used directly in the next step. 1H-NMR; δ(CDCl3), 7.22 (5H, m), 4.55 (2H, dd, J=6.5 Hz), 2.66 (2H, dd, J=7.4 Hz), 1.89 (2H, m), 1.71 (2H, m) and 1.49 (2H, m).

reactant | 5-Phenyl-pentan-1-ol | 12.17 mmol, 2 g | C1(=CC=CC=C1)CCCCCO | C11H16O
reactant | trifluoro-methanesulphonic anhydride | 13.39 mmol, 2.25 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | 13.39 mmol, 1.08 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 30 ml | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Trifluoro-methanesulphonic acid 5-phenylpentyl ester | C1(=CC=CC=C1)CCCCCOS(=O)(=O)C(F)(F)F | C12H15F3O3S
